US05432182
C. Preparation of 3-butyryl-7-benzoyloxymethyl-4-(1H)-quinolone
Ethyl-2-butyryl-3-(3-benzoyloxymethylphenylamino)-acrylate (34.37 g, 86.9 mmol) was added portionwise to refluxing diphenyl ether (300 ml) then heated at reflux for 1 hour. After cooling, petroleum ether (b.p. 40°-60°) was added, and the precipitated solid filtered off. Purification by column chromatography (silica, methanol-chloroform) gave the title compound as a solid (10.52 g) m.p. 228°-31°, from dichloromethane.

reactant | Ethyl-2-butyryl-3-(3-benzoyloxymethylphenylamino)-acrylate | 86.9 mmol, 34.37 g | C(C)OC(C(=CNC1=CC(=CC=C1)COC(C1=CC=CC=C1)=O)C(CCC)=O)=O | C23H25NO5
solvent | diphenyl ether | 300 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 3-butyryl-7-benzoyloxymethyl-4-(1H)-quinolone | 10.52 g | C(CCC)(=O)C1=CNC2=CC(=CC=C2C1=O)COC(C1=CC=CC=C1)=O | C21H19NO4
